* AD8131 SPICE Macro-model
* Description: Amplifier
* Generic Desc: High speed diff video line driver
* Developed by: JG/ADI
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (10/2000)                              
* Copyright 1999, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*     Distortion is not characterized
*     vnoise, not included in this version
*     inoise, not included in this version
*     -3dB BW on Vocm to output is not included
*     Vocm Cmrr Vs. Frequency not included
*
* Parameters modeled include:
*     closed loop gain and phase vs bandwidth
*     output current and voltage limiting
*     offset voltage (is  non-static, will  vary with gain)
*     ibias (again, is static, will not vary with vcm)
*     slew rate and step response performance
*     (slew rate is based on 10-90% of step response)
*     current on output will be reflected to the supplies 
*     Vocm is variable and include input typical offset
*     cmrr is characterized in this version.
*
* END Notes
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | |  positive supply
*                | |  |  negative supply
*                | |  |  |  output negative
*                | |  |  |  |   output positve
*                | |  |  |  |   |   vocm input
*                | |  |  |  |   |   |
.SUBCKT AD8131  3a 9a 99 98 71 71b 110
*************************input stage*******************************************
rg1 3a 3 742
rf1 2 71 1.55E3
rg2 9a 9  750
rf2 9 71b 1.5E3
*****positive input left side********
I1 99 5 .4E-3
Q1 98 2 5 QX
vos 3 2 -1E-3

**RAIL CLIPING****
Dlim+ 14 14b dx
Vlim+ 99 14b 1.93
Dlim 14c 14 dx
Vlim 14c  98 1.93
Dlim- 13b 13 DX
Vlim- 13b 98 1.93
Dlim-B 13 13C dx
Vlim-B 99 13C 1.93

** VOCM INPUT RAIL CLIPING****
DOCMa 100 100A dx
VOCMa 99 100A 2.88
DOCMb 100b 100 DX
VOCMb 100b 98 2.88
**VOCMb 100b 98 1.899
*****negative input right side*****
I2 99 6 .4E-3
Q2 98 9 6 QX

***********Input capacitance/impedance*******
CMRR 2 0 .150p
Cin 2 0 .7p
Cin2 9 0  .7p
***************************************pole, zero pole stage********************************************
****FIRST TRY**c1 14 13 .910p
c2 13 0 1.65E-12
c3 14 0 1.65E-12
G1 13 14   5 6   5E-3
r11 13 0 250k
r12 14 0 250k
*********pole zero stage( POSITIVE SIDE)*******
gp1 0 75 14 0 1
RP1 75 0 1
CP1 75 0 .98E-13
*********pole zero stage( NEGATIVE SIDE)*******
gp2 0 76 13 0 1
RP2 76 0 1
CP2 76 0 .98E-13
**********output stage Positive side*************
D17 76 84 DX
VO1  84 70 .177V
VO2  70 85 .177V
D16 85 76  DX
G30 70 99c 99 76  91E-3
G31 98c 70 76 98  91E-3
RO30 70 99c 11
RO31 98c 70 11
VIOUT1 99 99c 0V
VIOUT2 98 98c 0V
VIOUT3 70 71 0V

********** Output Stage Negative side *************
D17b 75 84b DX
VO1b  84b 70b .177V
VO2b  70b 85b .177V
D16b 85b 75  DX
G30b 70b 99d 99 75  91E-3
G31b 98d 70b 75 98  91E-3
RO30b 70b 99d 11
RO31b 98d 70b 11
VIOUTB1 99 99d 0V
VIOUTB2 98d 98 0V
VIOUTB3 70b 71b 0V

*********VOCM STAGE*************************
*Cocm 100 99 3.5E-3
*R 100 99 1E3
Gocm_a 0 75 110 0 1
Gocm_b 0 76 110 0 1
Rocm1 99 100 240k
Rocm2 100 98 240k
**Voffset 100 110 -1E-3
Voffset 100 110 -1.5E-3
********CURRENT MIRROR TO SUPPLIES POSITVIE SIDE*********
FO1 0 99 poly(2) VIOUT1 VI1 -19.803E-3 1 -1
FO2 0 98 poly(2) VIOUT2 VI2 -19.803E-3 1 -1
FO3 0 400 VIOUT1 1
VI1 401 0 0
VI2 0 402 0
DM1 400 401 DX
DM2 402 400 DX 
********CURRENT MIRROR TO SUPPLIES NEGATIVE SIDE*********
FO1B 0 99 poly(2) VIOUTB1 VIB1 -19.803E-3 1 -1
FO2B 0 98 poly(2) VIOUTB2 VIB2 -19.803E-3 1 -1
FO3B 0 400B VIOUTB1 1
VIB1 401B 0 0
VIB2 0 402B 0
DMB1 400B 401B DX
DMB2 402B 400B DX 
.MODEL QX PNP (BF=228.57 Is=1E-15)
.MODEL DX D(IS=1E-15)
.END







